* NGSPICE file created from ihp130_Resistor_String.ext - technology: ihp-sg13g2

.subckt ihp130_Resistor_String VREFout VREFin
X0 a_1962_966# VREFin rsil l=10u w=0.59u
X1 a_1962_336# a_4048_180# rsil l=10u w=0.59u
X2 a_1962_652# a_4048_810# rsil l=10u w=0.59u
X3 a_1962_22# a_4048_180# rsil l=10u w=0.59u
X4 a_1962_652# a_4048_494# rsil l=10u w=0.59u
X5 a_1962_336# a_4048_494# rsil l=10u w=0.59u
X6 a_1962_966# a_4048_810# rsil l=10u w=0.59u
X7 a_1962_22# VREFout rsil l=10u w=0.59u
.ends

